US04683241
2,2',4,4'-tetra(3-methylvaleroyloxy)benzophenone
A solution of 1.2 g (0.005 mole) of 2,4,2',4'-tetrahydroxybenzophenone and 3 g (0.025 mole) of 3-methyl valeroylchloride was warmed to 50° C. for 4 hrs. in 50 mls of dry pyridine. Solvent removal via rotary evaporator left an oil. This was partitioned between H2O and CH2Cl2. The organic layer was washed with K2CO3 solution (5%) and dried over MgSO4. After filtration and solvent removal the product remained an oil; 2.5 g (78%) yield.

reactant | 2,4,2',4'-tetrahydroxybenzophenone | 0.005 mole, 1.2 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | 3-methyl valeroylchloride | 0.025 mole, 3 g | CC(CC(=O)Cl)CC | C6H11ClO
solvent | pyridine | 50 mls | N1=CC=CC=C1 | C5H5N
product | 2,2',4,4'-tetra(3-methylvaleroyloxy)benzophenone | CC(CC(=O)OC1=C(C(=O)C2=C(C=C(C=C2)OC(CC(CC)C)=O)OC(CC(CC)C)=O)C=CC(=C1)OC(CC(CC)C)=O)CC | C37H50O9
